US04810699
A mixture of methyl 7-chloro-1-ethyl-1,3,4,9-tetrahydro-8-(2,2,2-trifluoroethoxy)-pyrano[3,4-b]indole-1-acetate (3.2 g, 8 mmol) EtOH (25 mL) and 1N NaOH (10 mL) was refluxed for 2 hours. At the end of this time the EtOH was removed in vacuo and the rsidue diluted with H2O (25 mL). This aqueous mixture was acidified with 1N HCl, then extracted with ether (150 mL). The ether layer was washed with saturated brine (2×100 mL), dried (MgSO4), and concentrated to yield a light yellow oil. This oil was dissolved in toluene and petroleum ether added (~10 volumes). After cooling, the crystals were removed by filtration to yield 2.8 g (90%) of 7-chloro-1-ethyl-1,3,4,9-tetrahydro-8-(2,2,2-trifluoroethoxy)-pyrano[3,4-b]indole-1-acetic acid, m.p. 157° C.

reactant | methyl 7-chloro-1-ethyl-1,3,4,9-tetrahydro-8-(2,2,2-trifluoroethoxy)-pyrano[3,4-b]indole-1-acetate | 8 mmol, 25 mL, 3.2 g | ClC1=CC=C2C3=C(NC2=C1OCC(F)(F)F)C(OCC3)(CC(=O)OC)CC | C18H19ClF3NO4
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-1-ethyl-1,3,4,9-tetrahydro-8-(2,2,2-trifluoroethoxy)-pyrano[3,4-b]indole-1-acetic acid | 2.8 g, 90% | ClC1=CC=C2C3=C(NC2=C1OCC(F)(F)F)C(OCC3)(CC(=O)O)CC | C17H17ClF3NO4
